### PR TITLE
Refactor metric spaces

### PR DESCRIPTION
**Pull request by malarbol**
Refactoring the metric space module (#1421)

- remove the notion of `Premetric` / `Premetric-Space`:
  
  as we discussed, the term "premetric" has too many different meanings to be reliably used in this library. What was called a `Premetric` is now a `Rational-Neighborhood-Relation` and we only focus on (pseudo)metric spaces.

- all (pseudo)metric spaces are saturated:

  including saturation in the definition of pseudometric space is coherent with the definition of [Richman premetric spaces](https://ncatlab.org/nlab/show/Richman+premetric+space) and makes a lot of things _easier_ (e.g.: the limit map is short, the metric space of Cauchy approximations in a complete metric space is complete, etc.).

- simplify hierarchy in concepts (define things for for metric spaces first, instead of the splitting premetric>pseudometric>metric):

  although a lot of concepts only depend on the underlying neighborhood relation, they are principally useful for (pseudo)metric spaces. The main concepts (isometries, Cauchy approximations and their limits) are defined for pseudometric and metric spaces; other concepts (short maps, continuity) are only defined for metric spaces but we can easily lower them to pseudometric spaces if we ever need them.

### CODE REVIEW

File: src/metric-spaces/metric-space-of-rational-numbers.lagda.md [hunk 1]
```diff
@@ -60,71 +59,59 @@ open import metric-spaces.triangular-premetric-structures
...
 [rational numbers](elementary-number-theory.rational-numbers.md) induces a
-[premetric](metric-spaces.premetric-structures.md) on `ℚ` where `x y : ℚ` are in
-a `d`-neighborhood when `y ≤ x + d` and `x ≤ y + d`, i.e. upper bounds on the
-distance between `x` and `y` are upper bounds of both `y - x` and `x - y`. This
-is a [metric structure](metric-spaces.metric-structures.md) on `ℚ` that defines
-the
-{{#concept "standard metric space of rational numbers" Agda=metric-space-leq-ℚ}}.
+[rational neighborhood relation](metric-spaces.rational-neighborhoods.md) on `ℚ`
+where `x y : ℚ` are in a `d`-neighborhood when `y ≤ x + d` and `x ≤ y + d`, i.e.
+upper bounds on the distance between `x` and `y` are upper bounds of both
```
Comment (lowasser) [inline src/metric-spaces/metric-space-of-rational-numbers.lagda.md]: Is it worth linking to, or providing specific tools to use, [the existing file on distances in Q](https://unimath.github.io/agda-unimath/elementary-number-theory.distance-rational-numbers.html)?

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 2]
```diff
@@ -0,0 +1,188 @@
...
+open import metric-spaces.similarity-of-elements-pseudometric-spaces
+```
+
+</details>
+
+## Idea
+
+A [pseudometric space](metric-spaces.pseudometric-spaces.md) is called
+{{#concept "extensional" Disambiguation="pseudometric space" Agda=is-extensional-Pseudometric-Space}}
+if any of the following equivalent condition holds:
```
Comment (lowasser) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]: missing 's' in 'conditions'

File: src/metric-spaces/rational-neighborhoods.lagda.md [hunk 3]
```diff
@@ -0,0 +1,340 @@
...
+      ( tr (Rational-Neighborhood-Relation l2) e S)
+      ( λ d x y → S d (map-inv-eq e x) (map-inv-eq e y))
+  eq-map-inv-eq-tr-Rational-Neighborhood-Relation B e S =
+    eq-Eq-Rational-Neighborhood-Relation
+      ( tr (Rational-Neighborhood-Relation l2) e S)
+      ( λ d x y → S d (map-inv-eq e x) (map-inv-eq e y))
+      ( Eq-map-inv-eq-tr-Rational-Neighborhood-Relation B e S)
+```
+
+### The similarity relation induced by a rational neighborhood relation
```
Comment (lowasser) [inline src/metric-spaces/rational-neighborhoods.lagda.md]: I'm not sure I feel a great need to define this for arbitrary rational neighborhood relations, as opposed to pseudometric spaces, where Wikipedia gives it a name: the [metric identification](https://en.wikipedia.org/wiki/Pseudometric_space#Metric_identification).  (We also can skip the "both-sidedness" equivalence there.)

File: src/metric-spaces/saturated-rational-neighborhoods.lagda.md [hunk 4]
```diff
@@ -0,0 +1,145 @@
...
+  [positive rational numbers](elementary-number-theory.positive-rational-numbers.md)
+  `δ`, then they are in a `ε`-neighborhood.
+
+Or, equivalently if for any `(x y : A)`, the subset of
+[upper bounds](metric-spaces.rational-neighborhoods.md) on the distance between
+`x` and `y` is closed on the left:
+
+- For any `ε : ℚ⁺`, if `ε + δ` is an upper bound of the distance between `x` and
+  `y` for all `(δ : ℚ⁺)`, then so is `ε`.
+
```
Comment (lowasser) [inline src/metric-spaces/saturated-rational-neighborhoods.lagda.md]: It feels like it might be worth saying something about how any rational neighborhood relation has a saturated version, or something.

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md [hunk 5]
```diff
@@ -0,0 +1,257 @@
...
+[pseudometric space](metric-spaces.pseudometric-spaces.md) are
+{{#concept "similar" Disambiguation="elements of a pseudometric space" Agda=sim-Pseudometric-Space}}
+if any of the following equivalent propositions holds:
+
+- they are similar w.r.t the underlying
+  [rational neighborhood relation](metric-spaces.rational-neighborhoods.md);
+- they have the same neighbors: `∀ δ z → N δ x z ↔ N δ y z`;
+- they share all neighborhoods: `∀ δ → N δ x y`.
+
+Similarity in a pseudometric space is an
```
Comment (lowasser) [inline src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md:42]: Wikipedia gives this a different name, the [metric identification](https://en.wikipedia.org/wiki/Pseudometric_space#Metric_identification).

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md [hunk 6]
```diff
@@ -0,0 +1,257 @@
...
+```
+
+### Similarity in pseudometric spaces is transitive
+
+```agda
+module _
+  {l1 l2 : Level} (A : Pseudometric-Space l1 l2)
+  where
+
+  transitive-sim-Pseudometric-Space :
```
Comment (lowasser) [inline src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md]: It might be overkill, but I tend to make anything this complicated (or that does any significant arithmetic) `abstract`.

File: src/metric-spaces/symmetric-rational-neighborhoods.lagda.md [hunk 7]
```diff
@@ -0,0 +1,49 @@
...
+open import metric-spaces.rational-neighborhoods
+```
+
+</details>
+
+## Idea
+
+A [rational neighborhood](metric-spaces.rational-neighborhoods.md) is
+{{#concept "symmetric" Disambiguation="rational neighborhood relation" Agda=is-symmetric-Rational-Neighborhood-Relation}}
+if all neighborhoods are symmetric.
```
Comment (lowasser) [inline src/metric-spaces/symmetric-rational-neighborhoods.lagda.md]: perhaps "if for every epsilon, the relation of being an epsilon-neighborhood is symmetric" to more explicitly reference the definition of a symmetric relation even though we can't link to a unique file?

File: src/metric-spaces/uniformly-continuous-functions-metric-spaces.lagda.md [hunk 8]
```diff
@@ -84,45 +85,153 @@ module _
...
+      ( X)
+      ( Y)
+      ( map-uniformly-continuous-function-Metric-Space f)
+  is-uniformly-continuous-map-uniformly-continuous-function-Metric-Space =
+    pr2
 ```
 
 ## Properties
 
+### Uniformly continuous functions are continuous at all points
```
Comment (lowasser) [inline src/metric-spaces/uniformly-continuous-functions-metric-spaces.lagda.md]: I've seen the term "continuous everywhere" used a lot in analysis and it feels reasonable to me to use it here?

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md [hunk 9]
```diff
@@ -0,0 +1,333 @@
...
+open import metric-spaces.symmetric-rational-neighborhoods
+open import metric-spaces.triangular-rational-neighborhoods
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "disjoint sum" Disambiguation="of a type family of metric spaces" Agda=Σ-Metric-Space}}
```
Comment (lowasser) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: You use "disjoint sum" here and in the file name, but "dependent sum" elsewhere in the file.  I think you should probably stick to one.

File: src/metric-spaces/metric-spaces.lagda.md [hunk 10]
```diff
@@ -58,237 +61,328 @@ saying that _`d` is an upper bound on the distance from `x` to `y`_.
...
+  type-subtype (is-metric-prop-Rational-Neighborhood-Relation A {l2})
 ```
 
 ### The type of metric spaces
 
 ```agda
 Metric-Space : (l1 l2 : Level) → UU (lsuc l1 ⊔ lsuc l2)
 Metric-Space l1 l2 =
-  type-subtype (is-metric-prop-Premetric-Space {l1} {l2})
+  Σ (UU l1) (Metric-Structure l2)
```
Comment (lowasser) [inline src/metric-spaces/metric-spaces.lagda.md]: I have mixed feelings about whether we should do it this way, or if we should just _actually_ define a metric space as an extensional pseudometric space, i.e. a Pseudometric-Space with an extensionality rule.

Comment (malarbol) [reply src/metric-spaces/metric-spaces.lagda.md]: > I have mixed feelings about whether we should do it this way, or if we should just _actually_ define a metric space as an extensional pseudometric space, i.e. a Pseudometric-Space with an extensionality rule.

I tried this way too, but ended up falling back to this definition. It makes the identity principle in `equality-of-metric-spaces` more direct, without having to define everything on pseudometric spaces first.

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md (hunk 5 above)
Comment (malarbol) [reply src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md:42]: I think it would be weird to call it that _before_ we prove that the quotient under this equivalence relation is a metric space. Hopefully we'll end up with a module `metric-quotient-pseudometric-spaces` where we construct the metric spaces we talked about in #1456, where we could prove this, link Wikipedia, and refer to this relation as the [metric identification](https://en.wikipedia.org/wiki/Pseudometric_space#Metric_identification). But it feels precipitated to do it here.

File: src/metric-spaces/saturated-rational-neighborhoods.lagda.md (hunk 4 above)
Comment (malarbol) [reply src/metric-spaces/saturated-rational-neighborhoods.lagda.md]: Sure. There were a lot of results on "saturation of premetric spaces" and how saturation preserves reflexivity, symmetry, triangularity, etc. I'll bring them back.

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md [hunk 11]
```diff
@@ -0,0 +1,260 @@
...
+  where
+
+  is-equivalence-relation-sim-Pseudometric-Space :
+    is-equivalence-relation (sim-prop-Pseudometric-Space A)
+  is-equivalence-relation-sim-Pseudometric-Space =
+    ( refl-sim-Pseudometric-Space A) ,
+    ( symmetric-sim-Pseudometric-Space A) ,
+    ( transitive-sim-Pseudometric-Space A)
+
+  equivalence-sim-Pseudometric-Space :
```
Comment (lowasser) [inline src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md]: As much as I dislike the added verbosity, this might need to be `equivalence-relation`, just because of how many overloadings of the word "equivalence" are present in Unimath.

File: src/metric-spaces/saturated-rational-neighborhoods.lagda.md (hunk 4 above)
Comment (malarbol) [reply src/metric-spaces/saturated-rational-neighborhoods.lagda.md]: I added a few results and some ideas in the header. I think I'll left reflexivity, symmetry, triangularity etc. for another PR, dedicated to the study of saturation of rational neighborhood relations.

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md (hunk 11 above)
Comment (malarbol) [reply src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md]: > As much as I dislike the added verbosity, this might need to be `equivalence-relation`, just because of how many overloadings of the word "equivalence" are present in Unimath.

yes, I don't like to be too verbose either. I think `equivalence-relation-sim-XXX` is a bit to much, since `relation` and `sim` represent the same concept in this context. Moreover, in the context of "equivalence" referring to equivalences between types, names usually use `equiv` instead `equivalence` so `equiv-sim-Pseudometric-Space` (whatever it would be), would be a different thing.

As usual, I'm just trying to explain/defend my naming choices. I'll be happy to change it that doesn't convince anybody.

File: src/metric-spaces/rational-neighborhoods.lagda.md (hunk 3 above)
Comment (malarbol) [reply src/metric-spaces/rational-neighborhoods.lagda.md]: > I'm not sure I feel a great need to define this for arbitrary rational neighborhood relations, 

this is the "present reference" of the "future reference" mentioned in https://github.com/UniMath/agda-unimath/issues/1421#issuecomment-2852424682.

This seems to be the natural equivalence relation to consider, w.r.t. the structure induced by rational neighborhoods relations. 

> as opposed to pseudometric spaces, where Wikipedia gives it a name: the [metric identification]> (https://en.wikipedia.org/wiki/Pseudometric_space#Metric_identification). (We also can skip the "both-sidedness" equivalence there.)

It would be weird to call this the **metric identification** without actually constructing the metric quotient. I guess there could be another module `metric-identification-pseudometric-spaces`, referencing to this wikipedia page, where we construct the metric quotient of a pseudometric space under the metric identification.

 I think it would fit better in another PR; I don't want to include too many new result in this one, this is only supposed to be a refactoring of the current `metric-spaces` module, hopefully making future results, like this one, easier to formalize.

**Comment by malarbol** [comment]
So, although I initially focused on metric spaces, recent conversations suggest that we'll also need isometries between pseudometric spaces soon. @lowasser do you mind if I checkout a few files from 5ba1fc0 to include in this PR?

File: src/metric-spaces/metric-spaces.lagda.md (hunk 10 above)
Comment (malarbol) [reply src/metric-spaces/metric-spaces.lagda.md]: It seems that I'll end up writing `equality-of-pseudometric-spaces` anyway (after defining isometries between pseudometric spaces) so maybe we could go this way.

**Comment by lowasser** [comment]
Go for it.

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md (hunk 11 above)
Comment (malarbol) [reply src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md]: It seems you were right, c.f. [equivalence-relation-sim-fraction-ℤ](https://unimath.github.io/agda-unimath/elementary-number-theory.integer-fractions.html#6429).

File: src/metric-spaces/metric-spaces.lagda.md (hunk 10 above)
Comment (malarbol) [reply src/metric-spaces/metric-spaces.lagda.md]: The type of metric spaces is now defined as 
```
Metric-Space l1 l2 = 
   Σ (Pseudometric-Space l1 l2) (is-extensional-Pseudometric-Space)
```

**Comment by lowasser** [comment]
Definitely hoping we can get this merged soon, I've got a pretty large pile of follow-ups.

**Comment by malarbol** [comment]
> Definitely hoping we can get this merged soon, I've got a pretty large pile of follow-ups.

Do you want to include your results on `induced-metric-space-pseudometric-spaces` in this PR?

**Comment by fredrik-bakke** [comment]
I'm terribly sorry it's taken so long to review this PR. I'll try and take the time to write a complete review tomorrow, but no promises

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 12]
```diff
@@ -0,0 +1,144 @@
...
+
+```agda
+module _
+  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  (f : cauchy-approximation-Metric-Space A)
+  where
+
+  is-limit-cauchy-approximation-prop-Metric-Space :
+    type-Metric-Space A → Prop l2
+  is-limit-cauchy-approximation-prop-Metric-Space lim =
```
Comment (lowasser) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: This should probably get saturated: you don't need the delta anymore.

File: src/metric-spaces/discrete-metric-spaces.lagda.md [hunk 13]
```diff
@@ -0,0 +1,362 @@
...
+
+### Cauchy approximations in a discrete metric space are weakly constant
+
+```agda
+module _
+  {l1 l2 : Level} (A : Discrete-Metric-Space l1 l2)
+  (f : cauchy-approximation-Metric-Space (metric-space-Discrete-Metric-Space A))
+  where
+
+  is-wconstant-cauchy-approximation-Disrcete-Metric-Space :
```
Comment (lowasser) [inline src/metric-spaces/discrete-metric-spaces.lagda.md]: typo: Disrcete

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md (hunk 12 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: I'm not sure. Including the delta is closer to definition 11.12.10 of the HoTT book and (it seems) other references. 
But I agree there's some fuzziness on which properties should be saturated, and which would should explicitly include an extra delta / theta to make computations easier. Maybe we should choose a line of action w.r.t. this issue.

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 14]
```diff
@@ -31,9 +29,11 @@ open import metric-spaces.short-functions-metric-spaces
 
 A
 {{#concept "Cauchy approximation" Disambiguation="in a metric space" Agda=is-cauchy-approximation-Metric-Space}}
-in a [metric space](metric-spaces.metric-spaces.md) is a
-[Cauchy approximation](metric-spaces.cauchy-approximations-premetric-spaces.md)
-in the carrier [premetric space](metric-spaces.premetric-spaces.md).
+in a [metric space](metric-spaces.metric-spaces.md) `A` is a map `f` from
+[`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to its carrier
+type such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
+(`ε + δ`)-[neighborhood](metric-spaces.rational-neighborhoods.md), i.e. the
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
[`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to the carrier
type of `A` such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
(`ε + δ`)-[neighborhood](metric-spaces.rational-neighborhoods.md), i.e., the
```

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 15]
```diff
@@ -93,10 +98,10 @@ module _
   const-cauchy-approximation-Metric-Space :
     cauchy-approximation-Metric-Space A
   const-cauchy-approximation-Metric-Space =
-    (const ℚ⁺ x) , (λ ε δ → is-reflexive-structure-Metric-Space A (ε +ℚ⁺ δ) x)
+    (const ℚ⁺ x) , (λ ε δ → refl-neighborhood-Metric-Space A (ε +ℚ⁺ δ) x)
 ```
 
-### Short maps between metric spaces preserve Cauchy approximations
+### Short maps between metric spaces are functorial on Cauchy approximations
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
### The action of short maps on Cauchy approximations
```

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 16]
```diff
@@ -108,9 +113,69 @@ module _
...
+
+  eq-comp-map-short-function-cauchy-approximation-Metric-Space :
+    ( map-short-function-cauchy-approximation-Metric-Space B C g ∘
+      map-short-function-cauchy-approximation-Metric-Space A B f) ＝
+    ( map-short-function-cauchy-approximation-Metric-Space A C
+      (comp-short-function-Metric-Space A B C g f))
+  eq-comp-map-short-function-cauchy-approximation-Metric-Space = refl
 ```
+
+### Homotopic cauchy approximations are equal
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
### Homotopic Cauchy approximations are equal
```

File: src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md [hunk 17]
```diff
@@ -0,0 +1,126 @@
...
+
+## Idea
+
+A
+{{#concept "Cauchy approximation" Disambiguation="in a pseudometric space" Agda=is-cauchy-approximation-Pseudometric-Space}}
+in a [pseudometric space](metric-spaces.pseudometric-spaces.md) `A` is a map `f`
+from [`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to its
+carrier type such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
+(`ε + δ`)-[neighborhood](metric-spaces.rational-neighborhoods.md), i.e. the
+distance between `f ε` and `f δ` is bounded by `ε + δ`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md]:
```suggestion
from [`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to the
carrier type of `A` such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
(`ε + δ`)-[neighborhood](metric-spaces.rational-neighborhoods.md), i.e., the
distance between `f ε` and `f δ` is bounded by `ε + δ`.
```

File: src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md [hunk 18]
```diff
@@ -0,0 +1,126 @@
...
+  (x : type-Pseudometric-Space A)
+  where
+
+  const-cauchy-approximation-Pseudometric-Space :
+    cauchy-approximation-Pseudometric-Space A
+  const-cauchy-approximation-Pseudometric-Space =
+    (const ℚ⁺ x) , (λ ε δ → refl-neighborhood-Pseudometric-Space A (ε +ℚ⁺ δ) x)
+```
+
+### Homotopic cauchy approximations are equal
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md]:
```suggestion
### Homotopic Cauchy approximations are equal
```

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md [hunk 19]
```diff
@@ -28,48 +28,44 @@ open import metric-spaces.metric-spaces
...
-{{#concept "continuous" Disambiguation="function between metric spaces at a point" WDID=Q170058 WD="continuous function" Agda=is-continuous-at-point-Metric-Space}}
-at a point `x` if there exists a function `m : ℚ⁺ → ℚ⁺` such that whenever `x'`
-is in an `m ε`-neighborhood of `x`, `f x'` is in an `ε`-neighborhood of `f x`.
-`m` is called a modulus of continuity of `f` at `x`.
+{{#concept "continuous" Disambiguation="function between metric spaces at a point" WDID=Q170058 WD="continuous function" Agda=is-continuous-at-point-function-Metric-Space}}
+at a point `x` if `f x` is the
+[limit](metric-spaces.limits-of-functions-metric-spaces.md) of `f` at `x`. I.e.,
+there exists a function `m : ℚ⁺ → ℚ⁺` such that whenever `x'` is in an
+`m ε`-neighborhood of `x`, `f x'` is in an `ε`-neighborhood of `f x`. `m` is
+called a modulus of continuity of `f` at `x`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/continuous-functions-metric-spaces.lagda.md]:
```suggestion
`m ε`-neighborhood of `x`, `f x'` is in an `ε`-neighborhood of `f x`. In this case, `m` is
called a modulus of continuity of `f` at `x`.
```

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md [hunk 20]
```diff
@@ -28,48 +28,44 @@ open import metric-spaces.metric-spaces
...
-  is-modulus-of-continuity-at-point-prop-Metric-Space :
-    (x : type-Metric-Space X) → (ℚ⁺ → ℚ⁺) → Prop (l1 ⊔ l2 ⊔ l4)
-  is-modulus-of-continuity-at-point-prop-Metric-Space =
-    is-modulus-of-continuity-at-point-prop-Premetric-Space
-      ( premetric-Metric-Space X)
-      ( premetric-Metric-Space Y)
-      ( f)
+  is-continuous-at-point-prop-function-Metric-Space : Prop (l1 ⊔ l2 ⊔ l4)
+  is-continuous-at-point-prop-function-Metric-Space =
+    is-pt-limit-prop-function-Metric-Space X Y f x (f x)
```
Comment (fredrik-bakke) [inline src/metric-spaces/continuous-functions-metric-spaces.lagda.md]: is `pt` a typo?

File: src/metric-spaces/dependent-products-metric-spaces.lagda.md [hunk 21]
```diff
@@ -39,10 +38,9 @@ open import metric-spaces.triangular-premetric-structures
 A family of [metric spaces](metric-spaces.metric-spaces.md) over a type produces
 a {{#concept "product metric space" Agda=Π-Metric-Space}} on the type of
 dependent functions into the carrier types of the family. Two functions `f` and
-`g` are in a [`d`-neighborhood](metric-spaces.premetric-structures.md) in the
-product structure if this holds for all the evaluations `f x` and `g x`. I.e
-this is the premetric such that
-[upper bounds](metric-spaces.premetric-structures.md) on the distance between
+`g` are in a [`d`-neighborhood](metric-spaces.rational-neighborhoods.md) in the
+product structure if this holds for all the evaluations `f x` and `g x`. I.e,
```
Comment (fredrik-bakke) [inline src/metric-spaces/dependent-products-metric-spaces.lagda.md]:
```suggestion
product structure if this holds for all the evaluations `f x` and `g x`. I.e.,
```

File: src/metric-spaces/dependent-products-metric-spaces.lagda.md [hunk 22]
```diff
@@ -87,36 +89,51 @@ module _
...
-  pr2 Π-Metric-Space = is-metric-structure-Π-Metric-Space
+  Π-Metric-Space =
+    make-Metric-Space
+      type-Π-Metric-Space
+      neighborhood-prop-Π-Metric-Space
+      is-reflexive-neighborhood-Π-Metric-Space
+      is-symmetric-neighborhood-Π-Metric-Space
+      is-triangular-neighborhood-Π-Metric-Space
+      is-saturated-neighborhood-Π-Metric-Space
+      is-extensional-pseudometric-space-Π-Metric-Space
```
Comment (fredrik-bakke) [inline src/metric-spaces/dependent-products-metric-spaces.lagda.md]: parenthesize the arguments

File: src/metric-spaces/discrete-metric-spaces.lagda.md [hunk 23]
```diff
@@ -0,0 +1,362 @@
...
+open import metric-spaces.symmetric-rational-neighborhoods
+open import metric-spaces.triangular-rational-neighborhoods
+```
+
+</details>
+
+## Idea
+
+A [metric space](metric-spaces.metric-spaces.md) is called
+{{#concept "discrete" Disambiguation="metric space" Agda=is-discrete-Metric-Space}}
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-metric-spaces.lagda.md]:
```suggestion
A [metric space](metric-spaces.metric-spaces.md) is
{{#concept "discrete" Disambiguation="metric space" Agda=is-discrete-Metric-Space}}
```

File: src/metric-spaces/discrete-metric-spaces.lagda.md [hunk 24]
```diff
@@ -0,0 +1,362 @@
...
+[complete](metric-spaces.complete-metric-spaces.md) and any discrete metric
+space is [isometrically equal](metric-spaces.equality-of-metric-spaces.md) to
+the
+{{#concept "standard discrete metric space" Disambiguation="on a set" Agda=discrete-metric-space-Set}}
+on its underlying [set](foundation.sets.md).
+
+Any [map](metric-spaces.functions-metric-spaces.md) from a discrete metric space
+is [short](metric-spaces.short-functions-metric-spaces.md); a map into a
+discrete metric space is short if and only if it is
+[locally constant](metric-spaces.locally-constant-functions-metric-spaces.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/discrete-metric-spaces.lagda.md]:
```suggestion
Any [map](metric-spaces.functions-metric-spaces.md) from a discrete metric space
is [short](metric-spaces.short-functions-metric-spaces.md), and a map into a
discrete metric space is short if and only if it is
[locally constant](metric-spaces.locally-constant-functions-metric-spaces.md).
```

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md [hunk 25]
```diff
@@ -0,0 +1,333 @@
...
+
+`(x , Px)` is `d`-neighbor of `(y , Py)` if and only if `x` is
+[equal](foundation.identity-types.md) to `y` and the
+[transport](foundation.transport-along-identifications.md) of `Px` along this
+identification is a `d`-neighbor of `y` in `P y`.
+
+The [projection](foundation.dependent-pair-types.md) on the first component is
+[locally constant](metric-spaces.locally-constant-functions-metric-spaces.md);
+for any `x : A` the embedding `P x → Σ A P` is an
+[isometry](metric-spaces.isometries-metric-spaces.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]:
```suggestion
The [projection](foundation.dependent-pair-types.md) on the first component is
[locally constant](metric-spaces.locally-constant-functions-metric-spaces.md), and
for any `x : A` the embedding `P x → Σ A P` is an
[isometry](metric-spaces.isometries-metric-spaces.md).
```

Comment (fredrik-bakke) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: Your explanation makes it seem like the metric space structure on `A` is not needed, `A` needs only be a set.

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md [hunk 26]
```diff
@@ -0,0 +1,333 @@
...
+  Σ-Metric-Space : Metric-Space (la ⊔ lp) (la ⊔ lp')
+  Σ-Metric-Space =
+    make-Metric-Space
+      type-Σ-Metric-Space
+      neighborhood-prop-Σ-Metric-Space
+      is-reflexive-neighborhood-Σ-Metric-Space
+      is-symmetric-neighborhood-Σ-Metric-Space
+      is-triangular-neighborhood-Σ-Metric-Space
+      is-saturated-neighborhood-Σ-Metric-Space
+      is-extensional-pseudometric-space-Σ-Metric-Space
```
Comment (fredrik-bakke) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: parenthesize arguments

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md [hunk 27]
```diff
@@ -0,0 +1,333 @@
...
+  fiber-point-Σ-Metric-Space :
+    (x : type-Σ-Metric-Space) →
+    type-Metric-Space (P (base-point-Σ-Metric-Space x))
+  fiber-point-Σ-Metric-Space = pr2
+
+  emb-fiber-Σ-Metric-Space :
+    (x : type-Metric-Space A) →
+    type-Metric-Space ( P x) →
+    type-Σ-Metric-Space
+  emb-fiber-Σ-Metric-Space x px = (x , px)
```
Comment (fredrik-bakke) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]:
```suggestion
  map-emb-fiber-Σ-Metric-Space :
    (x : type-Metric-Space A) →
    type-Metric-Space ( P x) →
    type-Σ-Metric-Space
  map-emb-fiber-Σ-Metric-Space x px = (x , px)
```

Comment (fredrik-bakke) [reply src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: since this is the underlying map of the embedding

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md [hunk 28]
```diff
@@ -0,0 +1,333 @@
...
+  is-isometry-emb-fiber-Σ-Metric-Space :
+    is-isometry-Metric-Space
+      ( P x)
+      ( Σ-Metric-Space A P)
+      ( emb-fiber-Σ-Metric-Space A P x)
+  is-isometry-emb-fiber-Σ-Metric-Space d px px' =
+    ( is-short-emb-fiber-Σ-Metric-Space d px px') ,
+    ( reflects-neighborhood-emb-fiber-Σ-Metric-Space d px px')
+
+  isometry-emb-fiber-Σ-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/disjoint-sums-metric-spaces.lagda.md:328]:
```suggestion
  isometry-fiber-Σ-Metric-Space :
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 29]
```diff
@@ -63,9 +66,8 @@ module _
 
   isometric-eq-Metric-Space : UU (lsuc l1 ⊔ l2 ⊔ l2')
   isometric-eq-Metric-Space =
-    isometric-eq-Premetric-Space
-      (premetric-Metric-Space A)
-      (premetric-Metric-Space B)
+    Σ (type-Metric-Space A ＝ type-Metric-Space B)
+      (λ e → is-isometry-Metric-Space A B (map-eq e))
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]:
```suggestion
    Σ ( type-Metric-Space A ＝ type-Metric-Space B)
      ( λ e → is-isometry-Metric-Space A B (map-eq e))
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 30]
```diff
@@ -78,9 +80,8 @@ module _
 
   isometric-equiv-Metric-Space : UU (l1 ⊔ l2 ⊔ l1' ⊔ l2')
   isometric-equiv-Metric-Space =
-    isometric-equiv-Premetric-Space
-      (premetric-Metric-Space A)
-      (premetric-Metric-Space B)
+    Σ (type-Metric-Space A ≃ type-Metric-Space B)
+      (λ e → is-isometry-Metric-Space A B (map-equiv e))
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]:
```suggestion
    Σ ( type-Metric-Space A ≃ type-Metric-Space B)
      ( λ e → is-isometry-Metric-Space A B (map-equiv e))
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 31]
```diff
@@ -93,117 +94,160 @@ module _
 
   isometric-equiv-Metric-Space' : UU (l1 ⊔ l2 ⊔ l1' ⊔ l2')
   isometric-equiv-Metric-Space' =
-    isometric-equiv-Premetric-Space'
-      (premetric-Metric-Space A)
-      (premetric-Metric-Space B)
+    Σ (type-function-Metric-Space A B)
+      (λ f → (is-equiv f) × (is-isometry-Metric-Space A B f))
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]:
```suggestion
    Σ ( type-function-Metric-Space A B)
      ( λ f → (is-equiv f) × (is-isometry-Metric-Space A B f))
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 32]
```diff
@@ -93,117 +94,160 @@ module _
...
 ```
 
 ## Properties
 
-### Equality of metric spaces is equivalent to isometric equality of their carrier types
+### Equality of metric spaces is equivalent to the existence of an isometric equality between their carrier types
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]:
```suggestion
### Equality of metric spaces is equivalent to isometric equality of their carrier types
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 33]
```diff
@@ -93,117 +94,160 @@ module _
...
   is-torsorial-isometric-eq-Metric-Space =
     is-contr-equiv'
       ( Σ (Metric-Space l1 l2) (Id A))
-      ( equiv-tot (equiv-isometric-eq-eq-Metric-Space A))
+      ( equiv-tot (equiv-eq-isometric-eq-Metric-Space A))
       ( is-torsorial-Id A)
 ```
 
-### Equality of metric spaces is equivalent to isometric equivalence of their carrier types
+### Isometric equality between the carrier types of metric spaces is equivalent to the existence of an isometric equivalence between them
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]:
```suggestion
### Isometric equality between the carrier types of metric spaces is equivalent isometric equivalence between them
```

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 34]
```diff
@@ -7,51 +7,54 @@ module metric-spaces.equality-of-metric-spaces where
...
+- a function between their carrier types that is both an
+  [equivalence](foundation-core.equivalences.md) and an
+  [isometry](metric-spaces.isometries-metric-spaces.md).
 
-  equiv-eq-premetric-Metric-Space :
-    (A ＝ B) ≃ (premetric-Metric-Space A ＝ premetric-Metric-Space B)
-  equiv-eq-premetric-Metric-Space =
-    extensionality-type-subtype' is-metric-prop-Premetric-Space A B
-```
+## Definitions
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md:55]: The definitions of this file should be defined in terms of the corresponding definitions for the underlying pseudometric space

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 35]
```diff
@@ -0,0 +1,250 @@
...
+
+  isometric-equiv-Pseudometric-Space' : UU (l1 ⊔ l2 ⊔ l1' ⊔ l2')
+  isometric-equiv-Pseudometric-Space' =
+    Σ (type-function-Pseudometric-Space A B)
+      (λ f → (is-equiv f) × (is-isometry-Pseudometric-Space A B f))
+```
+
+## Properties
+
+### Equality of pseudometric spaces is equivalent to the existence of an isometric equality between their carrier types
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]:
```suggestion
### Equality of pseudometric spaces is equivalent to isometric equality of their carrier types
```

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 36]
```diff
@@ -0,0 +1,250 @@
...
+  is-torsorial-isometric-eq-Pseudometric-Space :
+    is-torsorial (isometric-eq-Pseudometric-Space A)
+  is-torsorial-isometric-eq-Pseudometric-Space =
+    is-contr-equiv'
+      ( Σ (Pseudometric-Space l1 l2) (Id A))
+      ( equiv-tot (equiv-eq-isometric-eq-Pseudometric-Space A))
+      ( is-torsorial-Id A)
+```
+
+### Isometric equality between the carrier types of pseudometric spaces is equivalent to the existence of an isometric equivalence between them
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]:
```suggestion
### Isometric equality between the carrier types of pseudometric spaces is equivalent to isometric equivalence between them
```

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 37]
```diff
@@ -0,0 +1,250 @@
...
+  equiv-isometric-eq-equiv-Pseudometric-Space =
+    equiv-Σ
+      ( λ e → is-isometry-Pseudometric-Space A B (map-equiv e))
+      ( equiv-univalence)
+      ( λ (e : type-Pseudometric-Space A ＝ type-Pseudometric-Space B) →
+        equiv-eq
+          (ap (is-isometry-Pseudometric-Space A B) (eq-htpy (λ x → refl))))
+```
+
+### Isometric equivalences of pseudometric spaces characterize their equalities
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]:
```suggestion
### Isometric equivalences of pseudometric spaces characterize their equality
```

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 38]
```diff
@@ -0,0 +1,250 @@
...
+    ( equiv-isometric-equiv-isometric-equiv-Pseudometric-Space' A B) ∘e
+    ( equiv-eq-isometric-equiv-Pseudometric-Space A B)
+
+  eq-isometric-equiv-Pseudometric-Space' :
+    isometric-equiv-Pseudometric-Space' A B → A ＝ B
+  eq-isometric-equiv-Pseudometric-Space' =
+    map-inv-equiv equiv-eq-isometric-equiv-Pseudometric-Space'
+```
+
+### The existence of invertible isometries between pseudometric spaces is torsorial
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]:
```suggestion
### Invertible isometry between pseudometric spaces is torsorial
```

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 39]
```diff
@@ -0,0 +1,188 @@
...
+</details>
+
+## Idea
+
+A [pseudometric space](metric-spaces.pseudometric-spaces.md) is called
+{{#concept "extensional" Disambiguation="pseudometric space" Agda=is-extensional-Pseudometric-Space}}
+if any of the following equivalent conditions holds:
+
+- any [similar](metric-spaces.similarity-of-elements-pseudometric-spaces.md)
+  elements are [identical](foundation-core.identity-types.md);
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
- [similar](metric-spaces.similarity-of-elements-pseudometric-spaces.md)
  elements are [identical](foundation-core.identity-types.md);
```

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 40]
```diff
@@ -10,222 +10,225 @@ module metric-spaces.pseudometric-spaces where
...
-[triangular](metric-spaces.triangular-premetric-structures.md) premetric.
-Indistinguishability in a pseudometric space is an
-[equivalence relation](foundation.equivalence-relations.md).
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a type equipped
+with a {{concept "pseudometric structure" Agda=Pseudometric-Structure}}: a
+[reflexive](metric-spaces.reflexive-rational-neighborhoods.md),
+[symmetric](metric-spaces.symmetric-rational-neighborhoods.md),
+[triangular](metric-spaces.triangular-rational-neighborhoods.md) and
+[saturated](metric-spaces.saturated-rational-neighborhoods.md)
+[rational neighborhood relation](metric-spaces.rational-neighborhoods.md)
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md]:
```suggestion
[rational neighborhood relation](metric-spaces.rational-neighborhoods.md).
```

Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md]: Could you add a comment explaining the difference between a pseudometric space and a metric space? Something along the lines of

> In other words, a pseudometric space is a metric space that is not necessarily ... .

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md:1]: `extensionality-pseudometric-spaces`

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 41]
```diff
@@ -0,0 +1,188 @@
+# Extensional pseudometric spaces
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
# Extensionality of pseudometric spaces
```

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md (hunk 39 above)
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
- [similar](metric-spaces.similarity-of-elements-pseudometric-spaces.md)
  elements are [identical](foundation-core.identity-types.md);
```

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 42]
```diff
@@ -0,0 +1,188 @@
...
+
+  eq-sim-is-extensional-Pseudometric-Space :
+    (x y : type-Pseudometric-Space A) →
+    sim-Pseudometric-Space A x y →
+    x ＝ y
+  eq-sim-is-extensional-Pseudometric-Space x y =
+    map-inv-equiv (equiv-sim-eq-is-extensional-Pseudometric-Space x y)
+```
+
+### Any extensional pseudometric is tight
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
### Extensional pseudometric spaces are tight
```

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 43]
```diff
@@ -0,0 +1,188 @@
...
+  is-tight-Pseudometric-Space : UU (l1 ⊔ l2)
+  is-tight-Pseudometric-Space =
+    (x y : type-Pseudometric-Space A) →
+    sim-Pseudometric-Space A x y →
+    x ＝ y
+```
+
+## Properties
+
+### Any tight pseudometric space is extensional
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
### Tight pseudometric spaces are extensional
```

File: src/metric-spaces/extensional-pseudometric-spaces.lagda.md [hunk 44]
```diff
@@ -0,0 +1,188 @@
...
+        ( E)
+        ( x)
+        ( y))
+      ( is-prop-sim-Pseudometric-Space A x y)
+```
+
+## See also
+
+- [metric spaces](metric-spaces.metric-spaces.md): the type of extensional
+  pseudometric spaces.
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensional-pseudometric-spaces.lagda.md]:
```suggestion
- Extensional
  pseudometric spaces are called [metric spaces](metric-spaces.metric-spaces.md).
```

File: src/metric-spaces/isometries-metric-spaces.lagda.md [hunk 45]
```diff
@@ -9,38 +9,38 @@ module metric-spaces.isometries-metric-spaces where
...
-[metric spaces](metric-spaces.metric-spaces.md) is an
+An
 {{#concept "isometry" Disambiguation="between metric spaces" Agda=is-isometry-Metric-Space}}
-if it is an [isometry](metric-spaces.isometries-premetric-spaces.md) between
-their carrier [premetric spaces](metric-spaces.premetric-spaces.md).
+between two [metric spaces](metric-spaces.metric-spaces.md) is an
+[isometry](metric-spaces.isometries-pseudometric-spaces.md) between their
+[pseudometric spaces](metric-spaces.pseudometric-spaces.md), i.e., upper bounds
+on the distance between two points in `A` are exactly the upper bounds of the
+distance between their images in `B`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-metric-spaces.lagda.md]:
```suggestion
A [map of metric spaces](metric-spaces.functions-metric-spaces.md) `f : A → B` is an
{{#concept "isometry" Disambiguation="between metric spaces" Agda=is-isometry-Metric-Space}}
if the [rational neighborhood relation](metric-spaces.rational-neighborhoods.md)
on `A` is equivalent to the
[preimage](metric-spaces.preimage-rational-neighborhoods.md) under `f` of the
rational neighborhood relation on `B`.
In other words, `f` is an isometry if it is an
[isometry](metric-spaces.isometries-pseudometric-spaces.md) between the underlying
[pseudometric spaces](metric-spaces.pseudometric-spaces.md).
```

File: src/metric-spaces/isometries-metric-spaces.lagda.md [hunk 46]
```diff
@@ -157,12 +149,46 @@ module _
...
 
   eq-htpy-map-isometry-Metric-Space :
-    (map-isometry-Metric-Space A B f ~ map-isometry-Metric-Space A B g) →
+    ( map-isometry-Metric-Space A B f ~ map-isometry-Metric-Space A B g) →
     (f ＝ g)
   eq-htpy-map-isometry-Metric-Space =
     map-inv-equiv equiv-eq-htpy-map-isometry-Metric-Space
 ```
 
+### An isometry preserves and reflects neighborhoods
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-metric-spaces.lagda.md]:
```suggestion
### Isometries preserve and reflect neighborhoods
```

File: src/metric-spaces/isometries-metric-spaces.lagda.md [hunk 47]
```diff
@@ -322,17 +345,11 @@ module _
...
-      ( isometry-id-Metric-Space A)
-      ( is-retraction-map-inv-is-equiv E)
+    is-retraction-isometry-inv-is-equiv-isometry-Pseudometric-Space
+      ( pseudometric-Metric-Space A)
+      ( pseudometric-Metric-Space B)
+      ( f)
+      ( E)
 ```
 
 ### Any isometry between metric spaces is an embedding
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-metric-spaces.lagda.md]:
```suggestion
### Isometries between metric spaces are embeddings
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 48]
```diff
@@ -0,0 +1,395 @@
...
+</details>
+
+## Idea
+
+A [function](metric-spaces.functions-pseudometric-spaces.md) between
+[pseudometric spaces](metric-spaces.pseudometric-spaces.md) is an
+{{#concept "isometry" Disambiguation="between pseudometric spaces" Agda=is-isometry-Pseudometric-Space}}
+if the [rational neighborhood relation](metric-spaces.rational-neighborhoods.md)
+on `A` is equivalent to the
+[preimage](metric-spaces.preimage-rational-neighborhoods.md) by `f` of the
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
[preimage](metric-spaces.preimage-rational-neighborhoods.md) under `f` of the
```

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 49]
```diff
@@ -0,0 +1,144 @@
...
+open import metric-spaces.metric-spaces
+```
+
+</details>
+
+## Idea
+
+A [Cauchy approximation](metric-spaces.cauchy-approximations-metric-spaces.md)
+`f : ℚ⁺ → A` in a [metric space](metric-spaces.metric-spaces.md) `A` has a
+{{#concept "limit" Disambiguation="of a Cauchy approximation in a metric space Agda=is-limit-cauchy-approximation-Metric-Space}}
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
{{#concept "limit" Disambiguation="of a Cauchy approximation in a metric space" Agda=is-limit-cauchy-approximation-Metric-Space}}
```

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 50]
```diff
@@ -0,0 +1,144 @@
...
+`x : A` if `f ε` is near `x` for small `ε : ℚ⁺`; more precisely, if `f ε` is in
+a `ε + δ`-[neighborhood](metric-spaces.rational-neighborhoods.md) of `x` for all
+`ε δ : ℚ⁺`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
`x : A` if `f ε` is near `x` for small `ε : ℚ⁺`. More precisely, `f` has a limit if `f ε` is in
a `ε + δ`-[neighborhood](metric-spaces.rational-neighborhoods.md) of `x` for all
`ε δ : ℚ⁺`.
```

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: These run-on sentences make the definitions hard to parse. It is better to terminate the sentence and then elaborate further in a new one.

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 51]
```diff
@@ -0,0 +1,144 @@
...
+  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  (f : cauchy-approximation-Metric-Space A)
+  (x y : type-Metric-Space A)
+  where
+
+  all-sim-is-limit-cauchy-approximation-Metric-Space :
+    is-limit-cauchy-approximation-Metric-Space A f x →
+    is-limit-cauchy-approximation-Metric-Space A f y →
+    sim-Metric-Space A x y
+  all-sim-is-limit-cauchy-approximation-Metric-Space lim-x lim-y d =
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: isn't this just an instance of `all-sim-is-limit-cauchy-approximation-Pseudometric-Space`?

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 52]
```diff
@@ -0,0 +1,144 @@
...
+      ( A)
+      ( x)
+      ( y)
+      ( all-sim-is-limit-cauchy-approximation-Metric-Space lim-x lim-y)
+```
+
+## See also
+
+- [convergent cauchy approximations](metric-spaces.convergent-cauchy-approximations-metric-spaces.md):
+  the type of Cauchy approximations with a limit.
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
- [Convergent cauchy approximations](metric-spaces.convergent-cauchy-approximations-metric-spaces.md) are Cauchy approximations with a limit.
```
it is better to use words rather than punctuation where possible

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 53]
```diff
@@ -0,0 +1,144 @@
...
+```agda
+module _
+  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  (f : cauchy-approximation-Metric-Space A)
+  where
+
+  is-limit-cauchy-approximation-prop-Metric-Space :
+    type-Metric-Space A → Prop l2
+  is-limit-cauchy-approximation-prop-Metric-Space lim =
+    Π-Prop
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: This should be defined in terms of limits of cauchy approximations in pseudometric spaces

File: src/metric-spaces/limits-of-functions-metric-spaces.lagda.md [hunk 54]
```diff
@@ -0,0 +1,72 @@
...
+</details>
+
+## Idea
+
+A [function](metric-spaces.functions-metric-spaces.md) `f` between
+[metric spaces](metric-spaces.metric-spaces.md) `X` and `Y` has a
+{{#concept "limit" Disambiguation="of function between metric spaces at a point" Agda=is-pt-limit-function-Metric-Space}}
+`y : Y` at a point `x : X` if there exists a function `m : ℚ⁺ → ℚ⁺` such that
+whenever `x'` is in an `m ε`-neighborhood of `x`, `f x'` is in an
+`ε`-neighborhood of `y`. `m` is called a limit modulus of `f` at `x`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-functions-metric-spaces.lagda.md]:
```suggestion
`ε`-neighborhood of `y`. In this case `m` is called a limit modulus of `f` at `x`.
```

File: src/metric-spaces/limits-of-sequences-metric-spaces.lagda.md [hunk 55]
```diff
@@ -45,15 +49,20 @@ space, all limits of a sequence are [equal](foundation.identity-types.md).
...
+  is-limit-modulus-prop-sequence-Metric-Space m =
+    Π-Prop
+      ( ℚ⁺)
+      ( λ ε →
+        Π-Prop
+          ( ℕ)
+          ( λ ( n : ℕ) →
+            hom-Prop
+              ( leq-ℕ-Prop (m ε) n)
+              ( neighborhood-prop-Metric-Space M ε (u n) lim)))
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-sequences-metric-spaces.lagda.md:65]: should be defined in terms of limits of sequences in pseudometric spaces

Comment (fredrik-bakke) [reply src/metric-spaces/limits-of-sequences-metric-spaces.lagda.md:65]: oh, nevermind, you don't have this concept defined

File: src/metric-spaces/limits-of-sequences-metric-spaces.lagda.md [hunk 56]
```diff
@@ -148,6 +229,44 @@ module _
...
+        ( map-short-function-Metric-Space A B f)
+        ( u))
+      ( map-short-function-Metric-Space A B f lim)
+  short-map-limit-sequence-Metric-Space =
+    map-is-inhabited short-map-limit-modulus-sequence-Metric-Space
+```
+
 ## See also
 
 - [Convergent sequences](metric-spaces.convergent-sequences-metric-spaces.md):
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-sequences-metric-spaces.lagda.md]: ... are sequences with a limit

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md (hunk 53 above)
Comment (malarbol) [reply src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]: Sure. I actually wrote this module before the one on pseudometric spaces so that's why it doesn't reference the pseudometric case. As you saw, the same goes for a bunch of other modules. I'll try to clean things up.

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md (hunk 26 above)
Comment (malarbol) [reply src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: Do you mean something like:
```
    make-Metric-Space
      ( type-Σ-Metric-Space)
      ( neighborhood-prop-Σ-Metric-Space)
      ( is-reflexive-neighborhood-Σ-Metric-Space)
      ( is-symmetric-neighborhood-Σ-Metric-Space)
      ( is-triangular-neighborhood-Σ-Metric-Space)
      ( is-saturated-neighborhood-Σ-Metric-Space)
      ( is-extensional-pseudometric-space-Σ-Metric-Space)
```

Is it really necessary though? This is not an iterated pair but the application of the function `make-Metric-Space` to seven arguments, each  being just one keyword, so I don't really get the need to add parenthesis.

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md (hunk 20 above)
Comment (malarbol) [reply src/metric-spaces/continuous-functions-metric-spaces.lagda.md]: Not really 😅 . It stands for _pointwise_ limit or limit _at a point_. It's defined in `metric-spaces.limits-of-functions-metric-spaces` (which didn't exist in the old settings). 

Maybe the name is not the most fortunate. I'm open to suggestions.

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md (hunk 25 above)
Comment (malarbol) [reply src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: > Your explanation makes it seem like the metric space structure on `A` is not needed, `A` needs only be a set.

Well, that's right, the metric structure in the base space is not relevant in the construction. For some reason I defined it purely between metric spaces but I can refactor the definition with `A : Set l` if you prefer.

Comment (fredrik-bakke) [reply src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: Yes, that is better. Going back to the comment left my @lowasser, I think a good name for this construction is _indexed sum_.

File: src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md [hunk 57]
```diff
@@ -0,0 +1,126 @@
...
+
+</details>
+
+## Idea
+
+A
+{{#concept "Cauchy approximation" Disambiguation="in a pseudometric space" Agda=is-cauchy-approximation-Pseudometric-Space}}
+in a [pseudometric space](metric-spaces.pseudometric-spaces.md) `A` is a map `f`
+from [`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to the
+carrier type of `A` such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-pseudometric-spaces.lagda.md]:
```suggestion
carrier type of `A` such that for all [positive rationals](elementary-number-theory.positive-rational-numbers.md) `ε` and `δ`, `f ε` and `f δ` are in a
```

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 58]
```diff
@@ -31,9 +29,11 @@ open import metric-spaces.short-functions-metric-spaces
 
 A
 {{#concept "Cauchy approximation" Disambiguation="in a metric space" Agda=is-cauchy-approximation-Metric-Space}}
-in a [metric space](metric-spaces.metric-spaces.md) is a
-[Cauchy approximation](metric-spaces.cauchy-approximations-premetric-spaces.md)
-in the carrier [premetric space](metric-spaces.premetric-spaces.md).
+in a [metric space](metric-spaces.metric-spaces.md) `A` is a map `f` from
+[`ℚ⁺`](elementary-number-theory.positive-rational-numbers.md) to the carrier
+type of `A` such that for all `(ε δ : ℚ⁺)`, `f ε` and `f δ` are in a
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
type of `A` such that for all [positive rationals](elementary-number-theory.positive-rational-numbers.md) `ε` and `δ`, `f ε` and `f δ` are in a
```

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 59]
```diff
@@ -46,9 +46,14 @@ module _
...
-    is-cauchy-approximation-prop-Premetric-Space
-      ( premetric-Metric-Space A)
+  is-cauchy-approximation-prop-Metric-Space f =
+    Π-Prop
+      ( ℚ⁺)
+      ( λ ε →
+        Π-Prop
+          ( ℚ⁺)
+          ( λ δ →
+            neighborhood-prop-Metric-Space A (ε +ℚ⁺ δ) (f ε) (f δ)))
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md:56]:
```suggestion
  is-cauchy-approximation-prop-Metric-Space f =
    is-cauchy-approximation-prop-Pseudometric-Space
      ( pseudometric-space-Metric-Space A)
```

Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
  is-cauchy-approximation-prop-Metric-Space =
    is-cauchy-approximation-prop-Pseudometric-Space
      ( pseudometric-space-Metric-Space A)
```

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 60]
```diff
@@ -93,10 +98,10 @@ module _
   const-cauchy-approximation-Metric-Space :
     cauchy-approximation-Metric-Space A
   const-cauchy-approximation-Metric-Space =
-    (const ℚ⁺ x) , (λ ε δ → is-reflexive-structure-Metric-Space A (ε +ℚ⁺ δ) x)
+    (const ℚ⁺ x) , (λ ε δ → refl-neighborhood-Metric-Space A (ε +ℚ⁺ δ) x)
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]: should be defined in terms of the underlying pseudometric

Comment (fredrik-bakke) [reply src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]: This probably applies to the rest of this file sas well

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md (hunk 20 above)
Comment (fredrik-bakke) [reply src/metric-spaces/continuous-functions-metric-spaces.lagda.md]: I can suggest `is-point-limit` or `is-pointwise-limit`

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/continuous-functions-metric-spaces.lagda.md:1]: It seems more efficient to me if you would change up the order in which you create these files by doing them for pseudometrics first, so you then don't have to refactor the corresponding file for metric spaces whenever you do decide to add a file for pseudometric spaces. This will likely save you some headache later when you end up needing a certain concept for pseudometrics that you didn't define already.

Unless you are confident that you don't want to use pseudometrics except for in specific circumstances, other than as a stepping stone towards metric spaces.

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 61]
```diff
@@ -0,0 +1,250 @@
...
+[pseudometric spaces](metric-spaces.pseudometric-spaces.md) is characterized by
+the following equivalent concepts:
+
+- an [equality](foundation-core.identity-types.md) between their carrier types
+  such that the induced map under [`map-eq`](foundation-core.univalence.md) is
+  an [isometry](metric-spaces.isometries-pseudometric-spaces.md);
+
+- an [equivalence](foundation-core.equivalences.md) between their carrier types
+  such that the induced map under [`map-equiv`](foundation-core.equivalences.md)
+  is an [isometry](metric-spaces.isometries-pseudometric-spaces.md);
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md:47]:
```suggestion
- an [equivalence](foundation-core.equivalences.md) between their carrier types
  that is an [isometry](metric-spaces.isometries-pseudometric-spaces.md);
```

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 62]
```diff
@@ -0,0 +1,250 @@
...
+
+### Invertible isometry between pseudometric spaces is torsorial
+
+```agda
+module _
+  {l1 l2 : Level}
+  (A : Pseudometric-Space l1 l2)
+  where
+
+  is-torsorial-isometric-equiv-Pseudometric-Space' :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 63]
```diff
@@ -0,0 +1,250 @@
...
+
+### Isometric equivalence of pseudometric spaces is torsorial
+
+```agda
+module _
+  {l1 l2 : Level}
+  (A : Pseudometric-Space l1 l2)
+  where
+
+  is-torsorial-isometric-equiv-Pseudometric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 64]
```diff
@@ -0,0 +1,250 @@
...
+
+### Isometric equality is torsorial
+
+```agda
+module _
+  {l1 l2 : Level}
+  (A : Pseudometric-Space l1 l2)
+  where
+
+  is-torsorial-isometric-eq-Pseudometric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 65]
```diff
@@ -93,9 +96,9 @@ module _
...
   isometric-equiv-Metric-Space' =
-    isometric-equiv-Premetric-Space'
-      (premetric-Metric-Space A)
-      (premetric-Metric-Space B)
+    isometric-equiv-Pseudometric-Space'
+      ( pseudometric-Metric-Space A)
+      ( pseudometric-Metric-Space B)
 ```
 
 ## Properties
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md:102]: The properties in this file should be defined in terms of the corresponding properties of the underlying pseudometrics

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 66]
```diff
@@ -104,106 +107,141 @@ module _
...
+### Isometric equivalence of metric spaces is torsorial
 
 ```agda
 module _
-  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  {l1 l2 : Level}
+  (A : Metric-Space l1 l2)
   where
 
   is-torsorial-isometric-equiv-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 67]
```diff
@@ -104,106 +107,141 @@ module _
...
+### The existence of invertible isometries between metric spaces is torsorial
 
 ```agda
 module _
-  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  {l1 l2 : Level}
+  (A : Metric-Space l1 l2)
   where
 
   is-torsorial-isometric-equiv-Metric-Space' :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/equality-of-metric-spaces.lagda.md [hunk 68]
```diff
@@ -104,106 +107,141 @@ module _
...
 ### Isometric equality is torsorial
 
 ```agda
 module _
-  {l1 l2 : Level} (A : Metric-Space l1 l2)
+  {l1 l2 : Level}
+  (A : Metric-Space l1 l2)
   where
 
   is-torsorial-isometric-eq-Metric-Space :
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-metric-spaces.lagda.md]: `abstract`

File: src/metric-spaces/extensionality-pseudometric-spaces.lagda.md [hunk 69]
```diff
@@ -0,0 +1,188 @@
...
+    is-prop-type-Prop is-extensional-prop-Pseudometric-Space
+```
+
+### Tightness of a pseudometric space
+
+A pseudometric space is
+{{#concept "tight" Disambiguation="pseudometric" Agda=is-tight-Pseudometric-Space}}
+if any two
+[similar](metric-spaces.similarity-of-elements-pseudometric-spaces.md) elements
+are [equal](foundation-core.identity-types.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/extensionality-pseudometric-spaces.lagda.md:77]: In the idea section you define* a pseudometric space to be _extensional_ if this condition holds.

File: src/metric-spaces/indexed-sums-metric-spaces.lagda.md [hunk 70]
```diff
@@ -0,0 +1,334 @@
...
+{{#concept "indexed sum" Disambiguation="of a type family of metric spaces" Agda=Σ-Metric-Space}}
+of a type family `P` of [metric spaces](metric-spaces.metric-spaces.md) over a
+[set](foundation.sets.md) `A` is the metric space with underlying type `Σ A P`
+and the [neighborhood relation](metric-spaces.rational-neighborhoods.md) defined
+as:
+
+`(x , Px)` is `d`-neighbor of `(y , Py)` if and only if `x` is
+[equal](foundation.identity-types.md) to `y` and the
+[transport](foundation.transport-along-identifications.md) of `Px` along this
+identification is a `d`-neighbor of `y` in `P y`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/indexed-sums-metric-spaces.lagda.md]:
```suggestion
by:

The pair `(x , x')` is a `d`-neighbor of `(y , y')` if and only if `x` is
[equal](foundation.identity-types.md) to `y` and the
[transport](foundation.transport-along-identifications.md) of `x'` along this
identification is a `d`-neighbor of `y'` in `P y`.
```

Comment (fredrik-bakke) [reply src/metric-spaces/indexed-sums-metric-spaces.lagda.md]: The notation `Px` for an _element_ of `P x` is pretty confusing IMO.

File: src/metric-spaces/indexed-sums-metric-spaces.lagda.md [hunk 71]
```diff
@@ -0,0 +1,334 @@
...
+    ( refl ,
+      triangular-neighborhood-Metric-Space
+      ( P x)
+      ( Px)
+      ( Px')
+      ( Px'')
+      ( d₁)
+      ( d₂)
+      ( K)
+      ( H))
```
Comment (fredrik-bakke) [inline src/metric-spaces/indexed-sums-metric-spaces.lagda.md]:
```suggestion
        ( P x)
        ( Px)
        ( Px')
        ( Px'')
        ( d₁)
        ( d₂)
        ( K)
        ( H))
```

File: src/metric-spaces/indexed-sums-metric-spaces.lagda.md [hunk 72]
```diff
@@ -0,0 +1,334 @@
...
+        ( x=y)
+
+  is-extensional-pseudometric-space-Σ-Metric-Space :
+    is-extensional-Pseudometric-Space pseudometric-space-Σ-Metric-Space
+  is-extensional-pseudometric-space-Σ-Metric-Space =
+    is-extensional-is-tight-Pseudometric-Space
+      pseudometric-space-Σ-Metric-Space
+      is-tight-pseudometric-space-Σ-Metric-Space
+
+  Σ-Metric-Space : Metric-Space (la ⊔ lp) (la ⊔ lp')
```
Comment (fredrik-bakke) [inline src/metric-spaces/indexed-sums-metric-spaces.lagda.md]:
```suggestion
  indexed-sum-Metric-Space : Metric-Space (la ⊔ lp) (la ⊔ lp')
```

Comment (fredrik-bakke) [reply src/metric-spaces/indexed-sums-metric-spaces.lagda.md]: Since this is not the dependent sum operation in "the" category of  metric spaces

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 73]
```diff
@@ -0,0 +1,395 @@
...
+  {l1 l2 : Level} (A : Pseudometric-Space l1 l2)
+  where
+
+  is-isometry-id-Pseudometric-Space :
+    is-isometry-Pseudometric-Space A A (id-Pseudometric-Space A)
+  is-isometry-id-Pseudometric-Space d x y = id-iff
+
+  isometry-id-Pseudometric-Space : isometry-Pseudometric-Space A A
+  isometry-id-Pseudometric-Space =
+    id-Pseudometric-Space A , is-isometry-id-Pseudometric-Space
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
    ( id-Pseudometric-Space A , is-isometry-id-Pseudometric-Space)
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 74]
```diff
@@ -0,0 +1,395 @@
...
+      ( A)
+      ( B)
+      ( comp-isometry-Pseudometric-Space
+        ( A)
+        ( B)
+        ( B)
+        (isometry-id-Pseudometric-Space B)
+        ( f))
+      ( f)
+      ( λ x → refl)
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
      ( refl-htpy)
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 75]
```diff
@@ -0,0 +1,395 @@
...
+      ( A)
+      ( B)
+      ( f)
+      ( comp-isometry-Pseudometric-Space
+        ( A)
+        ( A)
+        ( B)
+        ( f)
+        ( isometry-id-Pseudometric-Space A))
+      ( λ x → refl)
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
      ( refl-htpy)
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 76]
```diff
@@ -0,0 +1,395 @@
...
+    eq-htpy-map-isometry-Pseudometric-Space
+      ( A)
+      ( D)
+      ( comp-isometry-Pseudometric-Space A B D
+        ( comp-isometry-Pseudometric-Space B C D h g)
+        ( f))
+      ( comp-isometry-Pseudometric-Space A C D
+        ( h)
+        ( comp-isometry-Pseudometric-Space A B C g f))
+      ( λ x → refl)
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
      ( refl-htpy)
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 77]
```diff
@@ -0,0 +1,395 @@
...
+  is-retraction-isometry-inv-is-equiv-isometry-Pseudometric-Space =
+    eq-htpy-map-isometry-Pseudometric-Space
+      ( A)
+      ( A)
+      ( comp-isometry-Pseudometric-Space
+        A
+        B
+        A
+        isometry-inv-is-equiv-isometry-Pseudometric-Space
+        f)
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
    eq-htpy-map-isometry-Pseudometric-Space A A
      ( comp-isometry-Pseudometric-Space A B A
        ( isometry-inv-is-equiv-isometry-Pseudometric-Space)
        ( f))
```
for readability

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 78]
```diff
@@ -0,0 +1,395 @@
...
+      ( isometry-id-Pseudometric-Space B)
+      ( is-section-map-inv-is-equiv E)
+
+  is-retraction-isometry-inv-is-equiv-isometry-Pseudometric-Space :
+    ( comp-isometry-Pseudometric-Space
+      A
+      B
+      A
+      isometry-inv-is-equiv-isometry-Pseudometric-Space
+      f) ＝
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
    ( comp-isometry-Pseudometric-Space A B A
      ( isometry-inv-is-equiv-isometry-Pseudometric-Space)
      ( f)) ＝
```
for readability

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 79]
```diff
@@ -0,0 +1,395 @@
...
+  is-section-isometry-inv-is-equiv-isometry-Pseudometric-Space =
+    eq-htpy-map-isometry-Pseudometric-Space
+      ( B)
+      ( B)
+      ( comp-isometry-Pseudometric-Space
+        B
+        A
+        B
+        f
+        isometry-inv-is-equiv-isometry-Pseudometric-Space)
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
    eq-htpy-map-isometry-Pseudometric-Space B B
      ( comp-isometry-Pseudometric-Space B A B
        ( f)
        ( isometry-inv-is-equiv-isometry-Pseudometric-Space))
```

File: src/metric-spaces/isometries-pseudometric-spaces.lagda.md [hunk 80]
```diff
@@ -0,0 +1,395 @@
...
+      ( is-isometry-map-isometry-Pseudometric-Space A B f)
+      ( E))
+
+  is-section-isometry-inv-is-equiv-isometry-Pseudometric-Space :
+    ( comp-isometry-Pseudometric-Space
+      B
+      A
+      B
+      f
+      isometry-inv-is-equiv-isometry-Pseudometric-Space) ＝
```
Comment (fredrik-bakke) [inline src/metric-spaces/isometries-pseudometric-spaces.lagda.md]:
```suggestion
    ( comp-isometry-Pseudometric-Space B A B
      ( f)
      ( isometry-inv-is-equiv-isometry-Pseudometric-Space)) ＝
```

File: src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md [hunk 81]
```diff
@@ -0,0 +1,110 @@
...
+</details>
+
+## Idea
+
+A [Cauchy approximation](metric-spaces.cauchy-approximations-metric-spaces.md)
+`f : ℚ⁺ → A` in a [metric space](metric-spaces.metric-spaces.md) `A` has a
+{{#concept "limit" Disambiguation="of a Cauchy approximation in a metric space" Agda=is-limit-cauchy-approximation-Metric-Space}}
+`x : A` if `f ε` is near `x` for small `ε : ℚ⁺`. More precisely, `f` has a limit
+if `f ε` is in a `ε + δ`-[neighborhood](metric-spaces.rational-neighborhoods.md)
+of `x` for all `ε δ : ℚ⁺`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
of `x` for all [positive rationals](elementary-number-theory.positive-rational-numbers.md) `ε` and `δ`.
```

File: src/metric-spaces/monotonic-rational-neighborhoods.lagda.md [hunk 82]
```diff
@@ -0,0 +1,62 @@
...
+open import metric-spaces.rational-neighborhoods
+```
+
+</details>
+
+## Idea
+
+A [rational neighborhood relation](metric-spaces.rational-neighborhoods.md) is
+{{#concept "monotonic" Disambiguation="rational neighborhood relation" Agda=is-monotonic-Rational-Neighborhood-Relation}}
+if all `d₁`-neighborhoods are `d₂`-neighborhoods for `d₁ < d₂`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/monotonic-rational-neighborhoods.lagda.md]:
```suggestion
if, for all `d₁ < d₂`, all `d₁`-neighborhoods are `d₂`-neighborhoods.
```

File: src/metric-spaces/ordering-rational-neighborhoods.lagda.md [hunk 83]
```diff
@@ -0,0 +1,145 @@
...
+## Idea
+
+A [rational neighborhood relation](metric-spaces.rational-neighborhoods.md) `U`
+on a type `A` is
+{{#concept "finer" Disambiguation="rational neighborhood relation on a type" Agda=leq-Rational-Neighborhood-Relation}}
+than another rational neighborhood relation `V` if `(U d)`-neighborhoods are
+`(V d)`-neighborhoods for any
+[positive rational](elementary-number-theory.positive-rational-numbers.md) `d`,
+i.e., if any upper bound on the distance between two points in `U` also bounds
+their distance in `V`. This is a [partial order](order-theory.posets.md) on the
```
Comment (fredrik-bakke) [inline src/metric-spaces/ordering-rational-neighborhoods.lagda.md]:
```suggestion
their distance in `V`. This defines a [partial order](order-theory.posets.md) on the
```

File: src/metric-spaces/preimage-rational-neighborhoods.lagda.md [hunk 84]
```diff
@@ -0,0 +1,139 @@
+# Preimage of rational neighborhood relations along maps
```
Comment (fredrik-bakke) [inline src/metric-spaces/preimage-rational-neighborhoods.lagda.md]:
```suggestion
# Preimages of rational neighborhood relations along maps
```

File: src/metric-spaces/preimage-rational-neighborhoods.lagda.md [hunk 85]
```diff
@@ -0,0 +1,139 @@
...
+</details>
+
+## Idea
+
+A [rational neighborhood relation](metric-spaces.rational-neighborhoods.md) `U`
+on a type `B` and map `f : A → B` define a rational neighborhood relation on `A`
+where `x y : A` are `d`-neighbors if `f x` and `f y` are `d`-neighbors in `U`.
+This is the
+{{#concept "preimage" Disambiguation="rational neighborhood relation" Agda=preimage-Rational-Neighborhood-Relation}}
+of `U` by `f`.
```
Comment (fredrik-bakke) [inline src/metric-spaces/preimage-rational-neighborhoods.lagda.md]:
```suggestion
Given a [rational neighborhood relation](metric-spaces.rational-neighborhoods.md) `U`
on a type `B` and map `f : A → B`, then we may define a rational neighborhood relation `f⁻¹U` on `A`
where `x y : A` are `d`-neighbors in `f⁻¹U` if `f x` and `f y` are `d`-neighbors in `U`.
This is the
{{#concept "preimage" Disambiguation="rational neighborhood relation" Agda=preimage-Rational-Neighborhood-Relation}}
of `U` along `f`.
```

File: src/metric-spaces/preimage-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/preimage-rational-neighborhoods.lagda.md:1]: I wounder if the plural `preimages-rational-neighborhood-relations`* is more conventional

File: src/metric-spaces/reflexive-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/reflexive-rational-neighborhoods.lagda.md:1]: I wonder if it is better to use `rational-neighborhood-relations` in the filenames of the files about rational neighborhood relations. The current phrasing makes it seem like the files are about particular neighborhoods, but they're about the whole structure.

Comment (fredrik-bakke) [reply src/metric-spaces/reflexive-rational-neighborhoods.lagda.md:1]: The same goes for the titles in the files

File: src/metric-spaces/reflexive-rational-neighborhoods.lagda.md [hunk 86]
```diff
@@ -0,0 +1,50 @@
+# Reflexive rational neighborhoods on types
```
Comment (fredrik-bakke) [inline src/metric-spaces/reflexive-rational-neighborhoods.lagda.md]:
```suggestion
# Reflexive rational neighborhood relations on types
```

File: src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md [hunk 87]
```diff
@@ -0,0 +1,260 @@
...
+## Idea
+
+Two elements `x y` of a
+[pseudometric space](metric-spaces.pseudometric-spaces.md) are
+{{#concept "similar" Disambiguation="elements of a pseudometric space" Agda=sim-Pseudometric-Space}}
+if any of the following equivalent propositions holds:
+
+- they are similar w.r.t the underlying
+  [rational neighborhood relation](metric-spaces.rational-neighborhoods.md);
+- they have the same neighbors: `∀ δ z → N δ x z ↔ N δ y z`;
```
Comment (fredrik-bakke) [inline src/metric-spaces/similarity-of-elements-pseudometric-spaces.lagda.md:39]:
```suggestion
- they have the same neighbors on the right: `∀ δ z → N δ x z ↔ N δ y z`;
```

File: src/metric-spaces/symmetric-rational-neighborhoods.lagda.md [hunk 88]
```diff
@@ -0,0 +1,50 @@
+# Symmetric rational neighborhoods on types
```
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-rational-neighborhoods.lagda.md]:
```suggestion
# Symmetric rational neighborhood relations on types
```

File: src/metric-spaces/symmetric-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/symmetric-rational-neighborhoods.lagda.md:1]: `symmetric-rational-neighborhood-relations`

File: src/metric-spaces/triangular-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/triangular-rational-neighborhoods.lagda.md:1]: `triangular-rational-neighborhood-relations`

File: src/metric-spaces/uniformly-continuous-functions-metric-spaces.lagda.md [hunk 89]
```diff
@@ -84,45 +85,153 @@ module _
...
+      mf , is-modulus-uniform-mf ← K
+      intro-exists
+        ( mf ∘ mg)
+        ( λ x ε x' →
+          is-modulus-uniform-mg (f x) ε (f x') ∘
+          is-modulus-uniform-mf x (mg ε) x')
+    where
+      open
+        do-syntax-trunc-Prop
+          ( is-uniformly-continuous-prop-function-Metric-Space X Z (g ∘ f))
```
Comment (fredrik-bakke) [inline src/metric-spaces/uniformly-continuous-functions-metric-spaces.lagda.md]: the `let` binding is preferred here

File: src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md [hunk 90]
```diff
@@ -68,61 +68,61 @@ is [complete](metric-spaces.complete-metric-spaces.md).
...
   is-cauchy-approximation-map-cauchy-approximation-Metric-Space
-    ( metric-space-leq-ℝ l)
+    ( metric-space-ℝ l)
     ( x)
 ```
 
 ## Properties
 
-### The limit of a Cauchy sequence
+### The limit of a Cauchy approximation in `ℝ`
```
Comment (fredrik-bakke) [inline src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md]: I forgot to comment on this in your PR about ring extensions of Q, but really, I think it is better to not encase R and Q in code guards in prose. It is certainly better in headers, which don't handle inline code properly.

```suggestion
### The limit of a Cauchy approximation in ℝ
```

File: src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md [hunk 91]
```diff
@@ -510,36 +510,36 @@ module _
...
-complete-metric-space-leq-ℝ :
+complete-metric-space-ℝ :
   (l : Level) → Complete-Metric-Space (lsuc l) l
-pr1 (complete-metric-space-leq-ℝ l) = metric-space-leq-ℝ l
-pr2 (complete-metric-space-leq-ℝ l) = is-complete-metric-space-leq-ℝ l
+pr1 (complete-metric-space-ℝ l) = metric-space-ℝ l
+pr2 (complete-metric-space-ℝ l) = is-complete-metric-space-ℝ l
 ```
 
 ### Limits of Cauchy sequences in `ℝ`
```
Comment (fredrik-bakke) [inline src/real-numbers/cauchy-completeness-dedekind-real-numbers.lagda.md]:
```suggestion
### Limits of Cauchy sequences in ℝ
```

File: src/metric-spaces/rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/rational-neighborhoods.lagda.md:1]: `rational-neighborhood-relations`

File: src/metric-spaces/ordering-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/ordering-rational-neighborhoods.lagda.md:1]: `ordering-rational-neighborhood-relations`

Comment (fredrik-bakke) [reply src/metric-spaces/ordering-rational-neighborhoods.lagda.md:1]: you can also consider `poset-of-rational-neighborhood-relations`

File: src/metric-spaces/monotonic-rational-neighborhoods.lagda.md
Comment (fredrik-bakke) [inline src/metric-spaces/monotonic-rational-neighborhoods.lagda.md:1]: `monotonic-rational-neighborhood-relations`

File: src/metric-spaces/monotonic-rational-neighborhoods.lagda.md [hunk 92]
```diff
@@ -0,0 +1,62 @@
+# Monotonic rational neighborhoods on types
```
Comment (fredrik-bakke) [inline src/metric-spaces/monotonic-rational-neighborhoods.lagda.md]:
```suggestion
# Monotonic rational neighborhood relations
```
or
```suggestion
# Monotonic rational neighborhood relations on types
```

File: src/metric-spaces/rational-neighborhoods.lagda.md [hunk 93]
```diff
@@ -0,0 +1,340 @@
...
+Given a rational neighborhood relation `N` on `A` and some positive rational
+number `d : ℚ⁺` such that `N d x y` holds for some pair of points `x y : A`, we
+interpret `d` as an
+{{#concept "upper bound" Disambiguation="on the distance with respect to a rational neighborhood relation" Agda=is-upper-bound-dist-Rational-Neighborhood-Relation}}
+on the distance between `x` and `y` with respect to the rational neighborhood
+relation.
+
+## Definitions
+
+### Rational neighborhood relation on a type
```
Comment (fredrik-bakke) [inline src/metric-spaces/rational-neighborhoods.lagda.md]:
```suggestion
### Rational neighborhood relations on a type
```

File: src/metric-spaces/rational-neighborhoods.lagda.md [hunk 94]
```diff
@@ -0,0 +1,340 @@
...
+  eq-Eq-Rational-Neighborhood-Relation N' H =
+    eq-htpy
+      ( λ d →
+        eq-htpy
+        ( λ x →
+          eq-htpy
+          ( λ y →
+            eq-iff' (N d x y) (N' d x y) (H d x y))))
+
+  is-torsorial-Eq-Rational-Neighborhood-Relation :
```
Comment (fredrik-bakke) [inline src/metric-spaces/rational-neighborhoods.lagda.md]: `abstract`

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 95]
```diff
@@ -10,222 +10,225 @@ module metric-spaces.pseudometric-spaces where
...
-[equivalence relation](foundation.equivalence-relations.md).
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a type equipped
+with a {{concept "pseudometric structure" Agda=Pseudometric-Structure}}: a
+[reflexive](metric-spaces.reflexive-rational-neighborhoods.md),
+[symmetric](metric-spaces.symmetric-rational-neighborhoods.md),
+[triangular](metric-spaces.triangular-rational-neighborhoods.md) and
+[saturated](metric-spaces.saturated-rational-neighborhoods.md)
+[rational neighborhood relation](metric-spaces.rational-neighborhoods.md).
+
+Given a pseudometric structure `B` on `A` and some positive rational number
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md]:
```suggestion
Given a pseudometric structure `B` on `A` and some [positive rational number](elementary-number-theory.positive-rational-numbers.md)
```

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 96]
```diff
@@ -10,222 +10,225 @@ module metric-spaces.pseudometric-spaces where
...
+`d : ℚ⁺` such that `B d x y` holds for some pair of points `x y : A`, we
+interpret `d` as an
+{{#concept "upper bound" Disambiguation="on distance in a pseudometric space" Agda=is-upper-bound-dist-Pseudometric-Space}}
+on the distance between `x` and `y` in the pseudometric space.
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md]: The comparison to metric spaces is still missing

File: src/metric-spaces/pseudometric-spaces.lagda.md [hunk 97]
```diff
@@ -10,222 +10,225 @@ module metric-spaces.pseudometric-spaces where
...
-[triangular](metric-spaces.triangular-premetric-structures.md) premetric.
-Indistinguishability in a pseudometric space is an
-[equivalence relation](foundation.equivalence-relations.md).
+A {{#concept "pseudometric space" Agda=Pseudometric-Space}} is a type equipped
+with a {{concept "pseudometric structure" Agda=Pseudometric-Structure}}: a
+[reflexive](metric-spaces.reflexive-rational-neighborhoods.md),
+[symmetric](metric-spaces.symmetric-rational-neighborhoods.md),
+[triangular](metric-spaces.triangular-rational-neighborhoods.md) and
+[saturated](metric-spaces.saturated-rational-neighborhoods.md)
+[rational neighborhood relation](metric-spaces.rational-neighborhoods.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/pseudometric-spaces.lagda.md]: I suggest copying over the more elaborate definition of metric spaces here and adjusting

**Review by fredrik-bakke — CHANGES_REQUESTED** [review]
Amazing work!

I got through all of the files now, and the organization overall seems very sensible, it is very comparble to chain `binary-relations > preorders > posets` in `order-theory` and `composition-operations-on-binary-families-of-sets > precategories > categories` in `category-theory`.

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md (hunk 64 above)
Comment (malarbol) [reply src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: It seems that abstracting this triggers some unresolved Level constraint that I don't really understand / know how to fix.

File: src/metric-spaces/equality-of-metric-spaces.lagda.md (hunk 65 above)
Comment (malarbol) [reply src/metric-spaces/equality-of-metric-spaces.lagda.md:102]: I changed a few definitions but a few of them (e.g. `is-torsorial-isometric-eq-Metric-Space` or `equiv-eq-isometric-equiv-Metric-Space`) still feel more natural to define directly for metric spaces rather than using the underlying pseudometric spaces.

File: src/metric-spaces/continuous-functions-metric-spaces.lagda.md
Comment (malarbol) [reply src/metric-spaces/continuous-functions-metric-spaces.lagda.md:1]: I added a module for `short-functions-pseudometric-spaces` but I'm not convinced modules for (uniform) continuity between pseudometric spaces are relevant. Maybe we could just wait to see if they're ever needed, in which case `:s/Metric-Space/Pseudometric-Space/g` will probably be sufficient.

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 97 above)
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md]: See new header in 65471cfcbdef2965586d2229e2b9f6d43c816c80

File: src/metric-spaces/extensionality-pseudometric-spaces.lagda.md (hunk 69 above)
Comment (malarbol) [reply src/metric-spaces/extensionality-pseudometric-spaces.lagda.md:77]: Sorry. Another case of "which one of these equivalent conditions is the _actual_ definition" 7a92a6683148fc5ceb509f408ea013efccece40f should fix this.

**Comment by malarbol** [comment]
Cool. I'm glad you liked it.

I addressed most of your comments. I left a few one open with questions / waiting for validation.

Maybe I'm doing something wrong but abstracting the definitions you suggested creates some unresolved level constraints. If you really want them abstract, you'll have to show me how to solve these.

File: src/metric-spaces/pseudometric-spaces.lagda.md (hunk 97 above)
Comment (malarbol) [reply src/metric-spaces/pseudometric-spaces.lagda.md]: Note that we'll probably have `induced-metric-space-pseudometric-spaces` (metric quotient of a pseudometric space by the similarity relation) soon after this PR (thanks to @lowasser) so this will probably need further adjustment in the near future.

File: src/metric-spaces/disjoint-sums-metric-spaces.lagda.md (hunk 26 above)
Comment (fredrik-bakke) [reply src/metric-spaces/disjoint-sums-metric-spaces.lagda.md]: Yes that is what I mean. I wouldn't say it is strictly necessary, but it is convention. I try to keep in line with this convention when I'm not feeling too lazy, but I get your sentiment so I won't force you to it.

File: src/literature/100-theorems.lagda.md [hunk 98]
```diff
@@ -136,11 +136,9 @@ open import elementary-number-theory.fundamental-theorem-of-arithmetic using
 
 ### 91. The triangle inequality {#91}
 
-**Author:** [malarbol](https://github.com/malarbol)
+**Author:** [Louis Wasserman](https://github.com/lowasser)
```
Comment (fredrik-bakke) [inline src/literature/100-theorems.lagda.md:146]: Wait, why are you changing the creditation on this one? I thought you were the first to formalize the triangle inequality.

Comment (fredrik-bakke) [reply src/literature/100-theorems.lagda.md:146]: Is this correct @lowasser?

File: src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md [hunk 99]
```diff
@@ -31,9 +30,15 @@ open import metric-spaces.short-functions-metric-spaces
 
 A
 {{#concept "Cauchy approximation" Disambiguation="in a metric space" Agda=is-cauchy-approximation-Metric-Space}}
-in a [metric space](metric-spaces.metric-spaces.md) is a
-[Cauchy approximation](metric-spaces.cauchy-approximations-premetric-spaces.md)
-in the carrier [premetric space](metric-spaces.premetric-spaces.md).
+in a [metric space](metric-spaces.metric-spaces.md) `A` is a
+[Cauchy approximation](metric-spaces.cauchy-approximations-pseudometric-spaces.md)
+in its underlying [pseudometric-space](metric-spaces.pseudometric-spaces.md): a
```
Comment (fredrik-bakke) [inline src/metric-spaces/cauchy-approximations-metric-spaces.lagda.md]:
```suggestion
in its underlying [pseudometric space](metric-spaces.pseudometric-spaces.md): a
```

File: src/metric-spaces/indexed-sums-metric-spaces.lagda.md [hunk 100]
```diff
@@ -0,0 +1,337 @@
...
+open import metric-spaces.triangular-rational-neighborhood-relations
+```
+
+</details>
+
+## Idea
+
+The
+{{#concept "indexed sum" Disambiguation="of a type family of metric spaces" Agda=indexed-sum-Metric-Space}}
+of a type family `P` of [metric spaces](metric-spaces.metric-spaces.md) over a
```
Comment (fredrik-bakke) [inline src/metric-spaces/indexed-sums-metric-spaces.lagda.md]:
```suggestion
of a family `P` of [metric spaces](metric-spaces.metric-spaces.md) over a
```

**Comment by fredrik-bakke** [comment]
> Maybe I'm doing something wrong but `abstracting` the definitions you suggested creates some unresolved level constraints. If you really want them `abstract`, you'll have to show me how to solve these.

That's odd, I'll have to look at it locally.

File: src/literature/100-theorems.lagda.md (hunk 98 above)
Comment (malarbol) [reply src/literature/100-theorems.lagda.md:146]: > Wait, why are you changing the creditation on this one? I thought you were the first to formalize the triangle inequality.

I got credited for this with `is-triangular-premetric-leq-ℝ` at a time when `dist-ℝ` and `triangle-inequality-dist-ℝ` didn't exist. But I think when anyone think of "the triangle inequality", they think `|x + y| ≤ |x| + |y|`, not the formulation in terms if pairs of inequalities like `is-triangular-neighborhood-ℝ`. That's why I only left `triangle-inequality-dist-ℝ` for this entry of the 100 theorems with, the appropriate credit.

Comment (fredrik-bakke) [reply src/literature/100-theorems.lagda.md:146]: You should still receive credit as the original contributor of the triangle inequality, even though a hypothetically easier-to-recognize version of the result appeared later.

Comment (malarbol) [reply src/literature/100-theorems.lagda.md:146]: ok. I put back `is-triangular-neighborhood-ℝ` in the list. I still think I shouldn't be credited for the second entry so I also kept @lowasser as author of `triangle-inequality-abs-ℝ` and `triangle-inequality-dist-ℝ`.

**Comment by VojtechStep** [comment]
> `abstract`ing the definitions you suggested creates some unresolved level constraints

Non-abstract definitions have some level of type inference, so those constraints get solved by looking at the body. Abstract definitions don't do that, since it could leak the implementation. 
When you're proving that a type family is torsorial, often one end of the observational equivalence can have different levels than the other. If Agda sees the proof, it can tell that the implementation only works for both endpoints having the same level. If it's abstract, you may need to write the type with an explicit annotation, like
```agda
abstract
  is-torsorial-equiv-foo :
    is-torsorial (λ (B : foo l1 l2) -> equiv-foo A B)
  is-torsorial-equiv-foo = ...
```

**Comment by malarbol** [comment]
> > Maybe I'm doing something wrong but `abstracting` the definitions you suggested creates some unresolved level constraints. If you really want them `abstract`, you'll have to show me how to solve these.
> 
> That's odd, I'll have to look at it locally.

That's fixed thanks to @VojtechStep's comment https://github.com/UniMath/agda-unimath/pull/1450#issuecomment-3190984626

File: src/literature/100-theorems.lagda.md (hunk 98 above)
Comment (lowasser) [reply src/literature/100-theorems.lagda.md:146]: Sounds good to me.  Appreciated.

**Comment by malarbol** [comment]
Working further with this new settings, I'm starting to feel that the modules `equality-of-(pseudo)metric-spaces` could be reworked. Some levels could be more general, maybe there could be dedicated modules for `isometric-equality-XX`, `isometric-equivalence-of-XX`, `isometric-equivalence-between-XX`, proof that these are all equivalence relations (I've been working with `set-quotients` so now I _love_ equivalence relations :P), etc.

However, since we've already waited long enough for this PR, it looks like we're almost there, and we've already built a few PRs atop of this one, I suggest we merge this ASAP, and I'll work on `equality-of-XX` in another one. I can open a new issue, or add objectives in #1421.

**Comment by fredrik-bakke** [comment]
Sounds good, please leave any further additions for a subsequent PR

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 101]
```diff
@@ -0,0 +1,259 @@
...
+module _
+  {l1 l2 : Level}
+  (A : Pseudometric-Space l1 l2)
+  where
+
+  abstract
+    is-torsorial-isometric-equiv-Pseudometric-Space :
+      is-torsorial
+        ( λ ( B : Pseudometric-Space l1 l2) →
+            ( isometric-equiv-Pseudometric-Space A B))
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: I'm on my phone, so it's a little hard to see, but I think this should be
```suggestion
        ( λ (B : Pseudometric-Space l1 l2) →
          isometric-equiv-Pseudometric-Space A B)
```
And similar elsewhere in this file

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 102]
```diff
@@ -0,0 +1,259 @@
...
+
+</details>
+
+## Idea
+
+[Equality](foundation-core.identity-types.md) of
+[pseudometric spaces](metric-spaces.pseudometric-spaces.md) is characterized by
+the following equivalent concepts:
+
+- an [equality](foundation-core.identity-types.md) between their carrier types
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Equality is already linked further up

**Comment by malarbol** [comment]
> Sounds good, please leave any further additions for a subsequent PR

Don't worry. I did add https://github.com/UniMath/agda-unimath/pull/1450/commits/3af8fa425f6233eaa951df51564db894edaa5f17 yesterday but I'm not planning to change this any further. I've been on it for a long time now and I think it's time to move forward.

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 103]
```diff
@@ -0,0 +1,259 @@
...
+  such that the induced map under [`map-eq`](foundation-core.univalence.md) is
+  an [isometry](metric-spaces.isometries-pseudometric-spaces.md);
+
+- an [equivalence](foundation-core.equivalences.md) between their carrier types
+  such that the induced map under [`map-equiv`](foundation-core.equivalences.md)
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Equivalences is already linked further up

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 104]
```diff
@@ -0,0 +1,259 @@
...
+  is an [isometry](metric-spaces.isometries-pseudometric-spaces.md);
+
+- a function between their carrier types that is both an
+  [equivalence](foundation-core.equivalences.md) and an
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Equivalences is already linked

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 105]
```diff
@@ -0,0 +1,259 @@
...
+  [isometry](metric-spaces.isometries-pseudometric-spaces.md).
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Isometry is already linked further up

Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: The convention is that we hyperlink a concept only the first time it is mentioned on a page

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md [hunk 106]
```diff
@@ -0,0 +1,259 @@
...
+
+  equiv-isometric-eq-equiv-Pseudometric-Space :
+    isometric-eq-Pseudometric-Space A B ≃ isometric-equiv-Pseudometric-Space A B
+  equiv-isometric-eq-equiv-Pseudometric-Space =
+    equiv-Σ
+      ( λ e → is-isometry-Pseudometric-Space A B (map-equiv e))
+      ( equiv-univalence)
+      ( λ (e : type-Pseudometric-Space A ＝ type-Pseudometric-Space B) →
+        equiv-eq
+          (ap (is-isometry-Pseudometric-Space A B) (eq-htpy (λ x → refl))))
```
Comment (fredrik-bakke) [inline src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]:
```suggestion
          (ap (is-isometry-Pseudometric-Space A B) (eq-htpy refl-htpy)))
```

File: src/metric-spaces/limits-of-cauchy-approximations-pseudometric-spaces.lagda.md [hunk 107]
```diff
@@ -0,0 +1,131 @@
...
+
+</details>
+
+## Idea
+
+A
+[Cauchy approximation](metric-spaces.cauchy-approximations-pseudometric-spaces.md)
+`f : ℚ⁺ → A` in a [pseudometric space](metric-spaces.pseudometric-spaces.md) `A`
+has a
+{{#concept "limit" Disambiguation="of a Cauchy approximation in a pseudometric space Agda=is-limit-cauchy-approximation-Pseudometric-Space}}
```
Comment (fredrik-bakke) [inline src/metric-spaces/limits-of-cauchy-approximations-pseudometric-spaces.lagda.md]:
```suggestion
{{#concept "limit" Disambiguation="of a Cauchy approximation in a pseudometric space" Agda=is-limit-cauchy-approximation-Pseudometric-Space}}
```

File: src/metric-spaces/metric-space-of-rational-numbers.lagda.md [hunk 108]
```diff
@@ -60,71 +59,60 @@ open import metric-spaces.triangular-premetric-structures
...
 [rational numbers](elementary-number-theory.rational-numbers.md) induces a
-[premetric](metric-spaces.premetric-structures.md) on `ℚ` where `x y : ℚ` are in
-a `d`-neighborhood when `y ≤ x + d` and `x ≤ y + d`, i.e. upper bounds on the
-distance between `x` and `y` are upper bounds of both `y - x` and `x - y`. This
-is a [metric structure](metric-spaces.metric-structures.md) on `ℚ` that defines
-the
-{{#concept "standard metric space of rational numbers" Agda=metric-space-leq-ℚ}}.
+[rational neighborhood relation](metric-spaces.rational-neighborhood-relations.md)
+on `ℚ` where `x y : ℚ` are in a `d`-neighborhood when `y ≤ x + d` and
+`x ≤ y + d`, i.e. if the
```
Comment (fredrik-bakke) [inline src/metric-spaces/metric-space-of-rational-numbers.lagda.md]:
```suggestion
`x ≤ y + d`, i.e., if the
```

**Comment by fredrik-bakke** [comment]
After these final nitpicks the PR is good to merge IMO 👍

File: src/metric-spaces/equality-of-pseudometric-spaces.lagda.md (hunk 105 above)
Comment (malarbol) [reply src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: I fixed the duplicated links you mentioned here but, TBH, there might be some other duplicates in some other modules. I have to leave for supper so I can't re-review it right now. If you want to have a last look and fix some duplicated hyperlink, go ahead.

Comment (fredrik-bakke) [reply src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Did you go through and check other files for duplicate links? If not let me know when you've done that, since you anticipate there might be others.

Comment (malarbol) [reply src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: Not yet. I'll do a last check a tell you when I'm done.

Comment (malarbol) [reply src/metric-spaces/equality-of-pseudometric-spaces.lagda.md]: That should be good now.

**Comment by fredrik-bakke** [comment]
Just want to check before merging, the co-authorship with @lowasser is intensional and should be preserved? It looks like you collaborated on [7f6a7cb](https://github.com/UniMath/agda-unimath/pull/1450/commits/7f6a7cb975651003409d7774dcf8d943946582d1)?

**Comment by malarbol** [comment]
> Just want to check before merging, the co-authorship with @lowasser is intensional and should be preserved? It looks like you collaborated on [7f6a7cb](https://github.com/UniMath/agda-unimath/pull/1450/commits/7f6a7cb975651003409d7774dcf8d943946582d1)?

Yes. IIRC @lowasser is the author of the module `metric-spaces.isometries-pseudometric-spaces` that I pulled from some of their branches.

**Comment by fredrik-bakke** [comment]
Merged 🎉
